Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old female with mechanical fall presents for trauma 
evaluation. The patient was vacationing in ___ with her 
family and slipped on the floor of her bathroom. No head strike, 
no LOC, no amnesia. She returned to the ___ as previously 
planned. Her daughter felt she should be evaluated and she was 
taken to ___ for evaluation with R posterior 12th rib 
fracture, and multiple spinal findings of unclear chronicity. 

At the time of my evaluation, patient is awake and conversant. 
She denies pain. She tells me she has been ambulating as she 
always does with a walker with no difficulty. She has no 
dyspnea. She has no weakness or numbness. She has no wounds that 
she has noticed. 
 
Past Medical History:
Hypertension
Atrial Fibrillation

R Hip Replacement
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Physical Exam: ON ADMISSION ___

Vitals: 98.2 103 181/73 18 96RA
GEN: A&O, NAD, GCS 15
HEENT: ___
CV: RRR, No M/G/R
PULM: non-labored on RA. No chest wall tenderness. 
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused

Physical Exam: ON DISCHARGE 

Vitals: Temp:98.4 , BP: 128/66, HR:105, rr 18 O2Sat: 95 % room 
air

GEN: NAD, sitting in chair
SKIN:  warm, dry, pink
PULM:
CV: ns1 s2, + systolic murmur ___
ABD: soft, non-tender
EXTREM: mild pedal edema bil., no calf tenderness
SKIN:intact
NEURO: alert and oriented x 2, speech clear, no tremors

 
Pertinent Results:
___ - Outside imaging reviewed, notable for the following:
CT head negative
CT C spine: age-indeterminate linear hypodensity of osteophytes
of anteroinferior CT, anterosuperior C6
CT Chest/Abdomen/Pelvis: T10-L1 transverse process fractures, 
T12
vertebral body anterior wedging with loss of height. R posterior
12th rib fracture
Chronic fractures of sacral alum and right inferior pubic ramus.

___ - MRI Cervical Spine With and Without Contrast: 
1. Motion limited exam. 
2. Chronicity of the anterior osteophyte fractures at C5-C6 
cannot be determined definitively.  However, there is no 
evidence for into the vertebral bodies, and no evidence for 
prevertebral edema, with preservation of prevertebral fat signal 
separate from fluid in the aerodigestive tract. Anterior 
longitudinal ligament is suboptimally assessed due to motion 
artifact, but injuries unlikely in the absence of prevertebral 
edema.
3. No evidence for edema in the posterior longitudinal ligament 
or posterior ligamentous complex. 
4. Scoliosis and extensive multilevel degenerative disease in 
the cervical and included upper thoracic spine. 
5. Spinal canal narrowing is up to mild-to-moderate, with mild 
cord remodeling at several levels, but no cord compression.  No 
clear evidence for cord signal abnormalities on motion limited 
evaluation. 
6. Multilevel neural foraminal narrowing, as detailed above. 
7. Small chronic infarcts in the partially visualized left 
cerebellar 
hemisphere. 
8. Partially imaged right gleno-humeral joint effusion.  
Partially imaged 
lobulated T2 hyper-intense structure inferior to the right 
glenohumeral joint, which may reflect bursitis or a ganglion 
cyst related to the rotator cuff. 

___ 03:22PM BLOOD WBC-7.7 RBC-3.09* Hgb-9.8* Hct-31.2* 
MCV-101* MCH-31.7 MCHC-31.4* RDW-13.7 RDWSD-49.7* Plt ___
___ 06:26AM BLOOD WBC-7.4 RBC-3.01* Hgb-9.4* Hct-30.0* 
MCV-100* MCH-31.2 MCHC-31.3* RDW-13.6 RDWSD-49.3* Plt ___
___ 01:20PM BLOOD WBC-7.1 RBC-3.11* Hgb-9.7* Hct-31.2* 
MCV-100* MCH-31.2 MCHC-31.1* RDW-13.4 RDWSD-48.8* Plt ___
___ 03:05AM BLOOD WBC-8.2 RBC-4.18 Hgb-13.1 Hct-41.0 MCV-98 
MCH-31.3 MCHC-32.0 RDW-13.1 RDWSD-46.7* Plt ___
___ 03:05AM BLOOD Neuts-61.3 ___ Monos-7.5 Eos-3.2 
Baso-0.7 Im ___ AbsNeut-5.04 AbsLymp-2.20 AbsMono-0.62 
AbsEos-0.26 AbsBaso-0.06
___ 03:22PM BLOOD Plt ___
___ 06:02AM BLOOD Glucose-105* UreaN-24* Creat-0.9 Na-141 
K-4.2 Cl-106 HCO3-26 AnGap-9*
___ 03:05AM BLOOD Glucose-79 UreaN-24* Creat-1.0 Na-142 
K-4.4 Cl-104 HCO3-27 AnGap-___ year old female who was evaluated at ___ 
___ after transfer from ___ where she 
presented after sustaining a mechanical fall while she was on 
vacation in ___. The patient was reportedly alert and 
oriented. She underwent imaging and was found to have  a right 
posterior 12th rib fracture, T12 compression fracture, T10-L1 
minimally displaced transverse process fractures, and C5/C6 
anterior osteophyte fracture. Repeat imaging of cervical spine 
was performed and the patient was admitted for pain control. 

Because of the patient's injuries, she was evaluated by the 
neurosurgery team. A cervical collar and TLSO brace was 
recommended for neck and back stabilization. Physical therapy 
was consulted to assess the patient's  mobility and assist in 
discharge planning. Throughout the hospital stay, the patient 
continued to be resistant to neck and back bracing.  The patient 
was informed of the risks of not wearing the collar.  

Discharge planning was initiated with plan for discharge to a 
rehabilitation facility. Repeat complete blood count was 
obtained and was notable for 6 point drop in hematocrit from 
37.7 to 31.2. The patient was also reported to have guiaic 
positive stools. The patient underwent serial hematocrits.  Her 
hematocrit at discharge had stabilized at 31.  

At time of discharge, the patient's vital signs were stable and 
she was afebrile. Her pain was controlled with oral analgesia.  
She was instructed in the use of incentive spirometry.  She was 
tolerating a regular diet and voiding without difficulty and she 
had return of bowel function.  A follow-up appointment was made 
with the Spine service. 
 
Medications on Admission:
Levothyroxine 88 mcg' 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
may decrease to q8 hours PRN as pain decreases  
2.  Docusate Sodium 100 mg PO BID  
3.  Heparin 5000 UNIT SC BID  
4.  Levothyroxine Sodium 88 mcg PO DAILY  
5.  Lidocaine 5% Patch 1 PTCH TD QAM right rib fx's  
6.  Polyethylene Glycol 17 g PO DAILY  
7.  Senna 17.2 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Mechanical Fall

Guaiac + stool

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital after you sustained a fall 
resulting in right sided rib fractures, fractures in your neck 
and spine.  You underwent imaging and you were reported to have 
a right posterior 12th rib fracture, T12 compression fracture, 
T10-L1 minimally displaced transverse process fractures, and 
C5/C6 anterior osteophyte fracture. You were admitted to the 
hospital for pain control.  You were evaluated by the 
neurosurgery team who recommended physical therapy and the use 
of cervical collar at all times for 12 weeks.  You were fitted 
for ___ brace which you need to wear while out of bed. You 
were seen by physical therapy and recommendations for discharge 
to a rehabilitation ___ further physical therapy.  You 
are being discharged with the following instructions: 

 Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

 

Because of your rib fractures, it is important to use the 
incentive spirometer every 2 hours to help from collapsing of 
the small airways.  

The ___ J collar should be worn while in bed

The ___ brace when OOB, can be donned at edge of bed.

 
Followup Instructions:
___